US09233937B2
To 1.1 g (3.85 mM) of [(tert-butoxycarbonyl)amino](4-chlorophenyl)acetic acid in 10 ml of tetrahydrofurane were added, under stirring at −25° C., 0.5 ml (4.6 mM) of 4-methyl morpholine and 0.52 ml (4.0 mM) of isobutyl chloroformate. After 10 mn were then added, at −25° C. under stirring, 1.9 ml (3.85 mM) of ethylamine 2M in tetrahydrofurane. The reaction mixture was stirred at −25° C. for 1 h, and at room temperature for 16 h. The reaction mixture was filtered and the filtrate was concentrated under vacuum to give an oil, which was further purified by silica gel column chromatography, using dichloromethane/cyclohexane (75/25) as eluant, to give 520 mg of tert-butyl 1-(4-chlorophenyl)-2-(ethylamino)-2-oxoethylcarbamate as a white solid.

reactant | [(tert-butoxycarbonyl)amino](4-chlorophenyl)acetic acid | 3.85 mM, 1.1 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=C(C=C1)Cl | C13H16ClNO4
reactant | 4-methyl morpholine | 4.6 mM, 0.5 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 4.0 mM, 0.52 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethylamine | 3.85 mM, 1.9 ml | C(C)N | C2H7N
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl 1-(4-chlorophenyl)-2-(ethylamino)-2-oxoethylcarbamate | 520 mg, Yield: 43% | ClC1=CC=C(C=C1)C(C(=O)NCC)NC(OC(C)(C)C)=O | C15H21ClN2O3
